US05306728
2-[3-(3-thienyl)phenyl]ethyl methanesulfonate, [synthesized by reacting 100 mg of 2-[3-(3-thienyl)phenoxy]ethanol with 50 μl of methanesulfonyl chloride and 190 μl of triethylamine in 1 ml of ethyl acetate] was dissolved in 1.5 ml of dimethylformamide, and 68 mg of potassium thioacetate was added. The mixture was heated at 80° C. with stirring for 3 hours, and then water and ethyl acetate were added. The organic layer separated was worked up in a customary manner to give 111 mg of S-[2-[3-(3-thienyl)phenoxy]ethyl] thioacetate as a pale brown oil.

reactant | 2-[3-(3-thienyl)phenyl]ethyl methanesulfonate | CS(=O)(=O)OCCC1=CC(=CC=C1)C1=CSC=C1 | C13H14O3S2
reactant | 2-[3-(3-thienyl)phenoxy]ethanol | 100 mg | S1C=C(C=C1)C=1C=C(OCCO)C=CC1 | C12H12O2S
reactant | methanesulfonyl chloride | 50 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | potassium thioacetate | 68 mg | C(C)(=S)[O-].[K+]
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | triethylamine | 190 μl | C(C)N(CC)CC | C6H15N
product | S-[2-[3-(3-thienyl)phenoxy]ethyl] thioacetate | 111 mg | C(C)(=O)SCCOC1=CC(=CC=C1)C1=CSC=C1 | C14H14O2S2
